US04847311
A 3 liter glass reaction vessel was charged with 186 grams (1.0 mol) of 4,4'-dihydroxybiphenyl, 438 grams (2.6 mols) of m-dinitrobenzene, 363 grams of potassium carbonate and 2,000 ml of N,N-dimethylformamide. The mixture was reacted at a temperature of 145°-150° C. for 16 hours. After completing the reaction, the resultant mixture was cooled and filtered to remove potassium nitrite. The solvent was distilled off from the filtrate under reduced pressure. The residue was cooled to 65° C., added with 2,000 ml of methanol and stirred for an hour. The resulted crystals were filtered, washed with water, washed with methanol and dried to obtain 426 grams (99.5% yield) of 4,4'-bis(3-nitrophenoxy)biphenyl as brown crystals.

reactant | 4,4'-dihydroxybiphenyl | 1.0 mol, 186 grams | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | m-dinitrobenzene | 2.6 mols, 438 grams | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
reactant | potassium carbonate | 363 grams | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2,000 ml | CN(C=O)C | C3H7NO
product | 4,4'-bis(3-nitrophenoxy)biphenyl | 426 grams, 99.5% yield | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)C2=CC=C(C=C2)OC2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C24H16N2O6
